US05785992
250 mM Tris HCl/5 mM EDTA buffer pH 7.8;
Leupeptin and aprothinin (from Boerhinger) stock solutions (0.1%) for each weigh out 0.0025 g and add both to 2.5 mL of distilled water. Mix, aliquot and store at -20° C. for up to 6 months or store 1 week at 4° C.; Phenylmethylsulfonylfluoride stock solution (PMSF) 10 mg/mL, prepared from 0.05 g of PMSF and 5 mL of isopropanol (Store in the dark at room temperature for up to 1 year); Complete homogenation buffer (from Tris HCl/EDTA buffer (100 mL), PMSF stock (350 μL, final concentration of 35 μg/mL), and leupeptin/aprotinin stock (50 μL, final concentration of 0.5 μL/mL)); BSA buffer, prepared from complete homogenation buffer+2 mg/mL BSA, fraction V; n-butyryl co-enzyme A (Sigma B1508 lyophilized powder diluted to 5 mg/mL and stored at -20° C. in small aliquots to avoid excessive freeze-thawings); CAT enzyme (Sigma C8413 chloramphenicol acetyltransferase); 14C-chloramphenicol (NEN NEC-408A chloramphenicol, D-threo-[dichloroacetyl-1,2-14C]-CAT assay grade (TLC based), stored at 4° C. and diluted 1:10 in BSA buffer just prior to use); mixed xylenes (Aldrich); paraoxon (diethyl-n-nitrophenyl phosphate, from Sigma is a liquid with 90% purity) stock solution is prepared by diluting the original liquid 1:80 in isopropanol (Note: To achieve a final paraoxon concentration of 5 μM in a 130 μL of reaction mixture, a further 1:200 dilution in homogenization buffer is made and 3.3 μL of this 0.8 mM paraoxon solution is added to the reaction mixture); BCA protein reagent.

reactant | Leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | Phenylmethylsulfonylfluoride | C1(=CC=CC=C1)CS(=O)(=O)F | C7H7FO2S
reactant | PMSF | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
reactant | PMSF | 0.05 g | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
reactant | Tris HCl EDTA | 100 mL | C(C(CO)(CO)N)O.Cl.C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | paraoxon | CCOP(=O)(OCC)OC=1C=CC(=CC1)[N+](=O)[O-] | C10H14NO6P
reactant | paraoxon | 0.8 mM | CCOP(=O)(OCC)OC=1C=CC(=CC1)[N+](=O)[O-] | C10H14NO6P
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | 2.5 mL | O | H2O
product | Tris HCl | C(C(CO)(CO)N)O.Cl | InChI=1S/C4H11NO3.ClH/c5-4(1-6,2-7)3-8;/h6-8H,1-3,5H2;1H
